US07291687B1
The procedure described in Example 1 was utilized in this example except that 1 mL of 1 M solution of sodium alkoxide (NaOR), i.e., sodium mentholate, in hexanes and 1 mL of 1 M solution of N,N,N′,N′-tetramethylethylene diamine (TMEDA) in hexanes were added to the catalyst system (BaTHFA/MgR2) making the molar ratio (BaTHFA/MgR2/NaOR/TMEDA) 1:3:1:1. The styrene-butadiene produced was determined to have a glass transition temperature (Tg) at −77° C. and a melting temperature (Tm) at +8° C. The Mooney viscosity (ML-4) at 100° C. was 89. The GPC measurements indicated that the polymer has a number average molecular weight (Mn) of 284,600 g/mol and a weight average molecular weight (Mw) of 350,800 g/mol. The polydispersity (Mw/Mn) of the resulting polymer was 1.23. Carbon-13 NMR analysis showed a trans 1,4 polybutadiene content of 74.20%, cis 1,4 polybutadiene content of 19.80%, a 1,2 polybutadiene content of 6%, and a polystyrene content of 18%.

reactant | sodium mentholate | C1(CC(C(CC1)C(C)C)O)(C)C(=O)[O-].[Na+]
reactant | N,N,N′,N′-tetramethylethylene diamine | CN(CCN(C)C)C | C6H16N2
product | styrene-butadiene | C=CC=C.C=CC1=CC=CC=C1 | InChI=1S/C8H8.C4H6/c1-2-8-6-4-3-5-7-8;1-3-4-2/h2-7H,1H2;3-4H,1-2H2
